US07192956B2
A solution of 1-methyl-5-(2-oxo-1,2-dihydrospiro[3,1-benzoxazine-4,1′-cyclobutan]-6-yl)-1H-pyrrole-2-carbonitrile (0.33 g, 1.1 mmol) and Lawesson's Reagent (0.23 g, 0.55 mmol) in toluene (10 mL) was heated at 100° C. Upon completion by TLC, the reaction mixture was poured into saturated sodium carbonate (100 mL) and extracted with ethyl acetate (50 mL), dried over magnesium sulfate, and concentrated. Trituration of the residue with ether (20 mL) gave 1-methyl-5-(2-thioxo-1,2-dihydrospiro[3,1-benzoxazine-4,1′-cyclobutan]-6-yl)-1H-pyrrole-2-carbonitrile (0.17 g, 49%) as a tan solid. 1H NMR (DMSO-d6): δ 12.35 (s, 1H), 7.64 (d, 1H, J=2.0 Hz), 7.51 (dd, 1H, J=8.2, 2.0 Hz), 7.15 (d, 1H, J=8.3 Hz), 7.05 (d, 1H, J=4.03 Hz), 6.43 (d, 1H, J=4.03 Hz), 3.73 (s, 3H), 2.59–2.53 (m, 2H), 2.09–2.02 (m, 2H), 1.93–1.85 (m, 2H). MS (ESI) m/z 310 ([M+H]+); MS (ESI) m/z 308 ([M−H]−); HRMS: calcd for C17H15N3OS, 309.0936; found (ESI_FT), 310.10057.

reactant | 1-methyl-5-(2-oxo-1,2-dihydrospiro[3,1-benzoxazine-4,1′-cyclobutan]-6-yl)-1H-pyrrole-2-carbonitrile | 1.1 mmol, 0.33 g | CN1C(=CC=C1C=1C=CC2=C(C1)C1(CCC1)OC(N2)=O)C#N | C17H15N3O2
reactant | Lawesson's Reagent | 0.55 mmol, 0.23 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | sodium carbonate | 100 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-5-(2-thioxo-1,2-dihydrospiro[3,1-benzoxazine-4,1′-cyclobutan]-6-yl)-1H-pyrrole-2-carbonitrile | 0.17 g, 49% | CN1C(=CC=C1C=1C=CC2=C(C1)C1(CCC1)OC(N2)=S)C#N | C17H15N3OS
